US07713993B2
Synthesis of 2-{4-azido-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl) [1,3,4]oxadiazole
Sodium iodide (35 mg) and sodium azide (20 mg) were added to a solution of 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl) [1,3,4]oxadiazole (72 mg) in DMF (2 mL), and the reaction solution was stirred at 80° C. for five hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=3:1->ethyl acetate) to obtain 50 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium iodide | 35 mg | [I-].[Na+]
reactant | sodium azide | 20 mg | [N-]=[N+]=[N-].[Na+]
reactant | 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl) [1,3,4]oxadiazole | 72 mg | ClCCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)CC1=CC=C(C=C1)F | C25H24ClFN4O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{4-azido-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl) [1,3,4]oxadiazole | 50 mg | N(=[N+]=[N-])CCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)CC1=CC=C(C=C1)F | C25H24FN7O2
